US07129233B2
(i) 4-Azidomethyl-N-methoxy-benzamidine
4-Azidomethylbenzonitrile (17.3 g, 0.109 mol; Nishiyama et al; Chem. Lett. (1982) 1477) was dissolved in 500 mL of toluene and 200 mL of absolute ethanol. The solution was cooled to −10° C. and HCl(g) was bubbled through until saturation. The mixture was kept in the refrigerator for 2 days when most of the solvents were evaporated. Diethyl ether was added and was decanted off. The product was re-dissolved in a solution of O-methylhydroxyl amine (10.5 g, 0.125 mol) and triethyl amine (56 mL) in 200 mL of methanol. The mixture was allowed to stand for 3 days whence the methanol was evaporated with addition of EtOAc. The organic phase was washed with water, dilute HOAc and aqueous sodium bicarbonate, dried (Na2SO4) and diluted with more EtOAc to a total volume of 500 mL.

reactant | 4-Azidomethylbenzonitrile | 0.109 mol, 17.3 g | N(=[N+]=[N-])CC1=CC=C(C#N)C=C1 | C8H6N4
reactant | O-methylhydroxyl amine | 0.125 mol, 10.5 g | CON | CH5NO
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | triethyl amine | 56 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 200 mL | CO | CH4O
product | 4-Azidomethyl-N-methoxy-benzamidine | N(=[N+]=[N-])CC1=CC=C(C(=N)NOC)C=C1 | C9H11N5O
